US07323475B2
1-Chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carboxylic acid (2-hydroxy-ethyl)-amide
Synthesized from 1-chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carboxylic acid butyl ester (can be obtained according to U.S. Pat. No. 6,093,730, October 1998, Weidmann et al.) and 2-amino-ethanol in analogy to example B-5; MS-(+)-ion: M+1=325.1.

reactant | 1-chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=C(C=C2C1O)OC(C)C)Cl | C17H20ClNO4
reactant | 2-amino-ethanol | NCCO | C2H7NO
product | 1-Chloro-4-hydroxy-6-isopropoxy-isoquinoline-3-carboxylic acid (2-hydroxy-ethyl)-amide | OCCNC(=O)C=1N=C(C2=CC=C(C=C2C1O)OC(C)C)Cl | C15H17ClN2O4
